Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][O:3][C@@:4]([H:5])([C:6][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.830114706630001
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.33235440922
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]1([H:10])[H:11],-1.2185129087
[H:12].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.42207422181
[H:1][C:2]([H:3])=[C:4][C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6],1.7658053966599998
[H:1][C:2]1[C:3]2[O:4][C@:5]12[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],0.6748870130399999
[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],7.16564201033
[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11],-1.04484778756
[H:1][O:2][C:3]#[C:4][C:5][O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3]=[C:4]=[C:5]1[O:6][C:7]1([H:8])[H:9],-1.78221612448
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7]>>[C:4]([H:5])[O:6][H:7].[H:1][C:2]#[C:3],5.606400741
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10]>>[C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10].[H:1],3.5407705988
[C:8]([H:9])([H:10])=[C:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[O:1][C@:2]([H:3])([C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[C:11][H:12],2.3008779234
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:10]([H:11])[H:12].[H:9],4.88581871967
[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.8276570333099995
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17].[H:6],2.07977946589
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7].[O:8]=[C:9]([H:10])[H:11],0.830402292499
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:9]([C:8]#[C:2])([C:10]([H:11])[H:12])[H:13].[H:3][C:4]([H:5])([H:6])[C:7],5.9180486853
[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.89657063877
[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.57104783325
[H:1][C:2]([H:3])[C@@:4]1([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C@@:12]1([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:12]([C:9]([C:4]([C:5]([H:6])([H:7])[H:8])[H:13])([H:10])[H:11])[C:14]([H:15])([H:16])[H:17],-0.262442193441
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.88632552243
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:2]#[C:3][H:4],1.24976576335
[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.97379528035
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:3].[O:1]=[C:2]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],2.190123017
[H:1][C:2][C:3]1[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1[H:12]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12],2.50865695181
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:7]([H:8])([H:9])=[C:10][O:11][H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6],2.15535606607
[O:1]=[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[O:5][H:6],2.42056307313
